US06376429B1
Step 7: 2-Chloro-3-cyclohexanyloxymethyl-4-methylsulfonylbenzoic acid
1.0 g (2.93 mmol) of methyl 3-bromomethyl-2-chloro-4-methylsulfonylbenzoate was dissolved in 10 ml of cyclohexanol and treated with 0.33 g (2.93 mmol) of potasisum tert-butoxide. The mixture was stirred overnight at room temperature and then concentrated on a rotary evaporator. The residue was dissolved in 16 ml of tetrahydrofuran and 8 ml of water and refluxed for 4 h together with 0.55 g of NaOH (13.74 mmol). It was then allowed to cool and was largely concentrated on a rotary evaporator and the aqueous residue was then treated with 2 M HCl. It was then extracted with methylene chloride, and the combined organic phase was dried over MgSO4 and completely concentrated on a rotary evaporator.

reactant | methyl 3-bromomethyl-2-chloro-4-methylsulfonylbenzoate | 2.93 mmol, 1.0 g | BrCC=1C(=C(C(=O)OC)C=CC1S(=O)(=O)C)Cl | C10H10BrClO4S
reactant | tert-butoxide | 2.93 mmol, 0.33 g | CC(C)([O-])C
reactant | water | 8 ml | O | H2O
reactant | NaOH | 13.74 mmol, 0.55 g | [OH-].[Na+]
reactant | cyclohexanol | 10 ml | C1(CCCCC1)O | C6H12O
product | 2-Chloro-3-cyclohexanyloxymethyl-4-methylsulfonylbenzoic acid | ClC1=C(C(=O)O)C=CC(=C1COC1CCCCC1)S(=O)(=O)C | C15H19ClO5S
